US04411901
Reaction of 8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9-dione and 3-(1-piperazinyl)-1,2-benzisoxazole according to the procedure of Example 3 and crystallization of the free base from isopropanol affords a 40% yield of 8-[4-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]butyl]-8-azaspiro[4.5]decane-7,9-dione hemihydrate, m.p. 96°-98° C.

reactant | 8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9-dione | BrCCCCN1C(CC2(CCCC2)CC1=O)=O | C13H20BrNO2
reactant | 3-(1-piperazinyl)-1,2-benzisoxazole | N1(CCNCC1)C1=NOC2=C1C=CC=C2 | C11H13N3O
product | 8-[4-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]butyl]-8-azaspiro[4.5]decane-7,9-dione hemihydrate | 40% yield | O.O1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(CC1(CCCC1)CC2=O)=O.O2N=C(C1=C2C=CC=C1)N1CCN(CC1)CCCCN1C(CC2(CCCC2)CC1=O)=O | InChI=1S/2C24H32N4O3.H2O/c2*29-21-17-24(9-3-4-10-24)18-22(30)28(21)12-6-5-11-26-13-15-27(16-14-26)23-19-7-1-2-8-20(19)31-25-23;/h2*1-2,7-8H,3-6,9-18H2;1H2
